US09212182B2
A solution of 1-(5-(benzylthio)-2-fluorophenyl)ethanone (3.6 g, 13.83 mmol) in N,N-dimethylacetamide dimethyl acetal (12.13 mL, 83 mmol) was irradiated at 130° C. for 10 minutes in a microwave reactor (Biotage Initiator). The reaction mixture was partitioned between water and ethyl acetate, and the organic layer was concentrated. The crude product was purified by column chromatography, eluting with 20-100% ethyl acetate in heptane, to provide (E)-1-(5-(benzylthio)-2-fluorophenyl)-3-(dimethylamino)but-2-en-1-one (2.9 g, 8.80 mmol, 63.7% yield) as a tan solid. m/z (ESI) 330.0 (M+H).

reactant | 1-(5-(benzylthio)-2-fluorophenyl)ethanone | 13.83 mmol, 3.6 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)C(C)=O)F | C15H13FOS
reactant | N,N-dimethylacetamide dimethyl acetal | 83 mmol, 12.13 mL | COC(C)(N(C)C)OC | C6H15NO2
product | (E)-1-(5-(benzylthio)-2-fluorophenyl)-3-(dimethylamino)but-2-en-1-one | 8.80 mmol, 2.9 g, 63.7% yield | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)C(\C=C(/C)\N(C)C)=O)F | C19H20FNOS
